US03959309
9-(p-Chlorobenzyl)-3(dimethylamino)-1,2,3,4-tetrahydrocarbazole
A mixture of 29.1 g. of 3-benzoyloxy-1,2,3,4-tetrahydrocarbazole and 4.3 g. of sodium hydride (56% in mineral oil) in 200 ml. of dimethylformamide was heated on a steam bath and 16.1 g. of p-chlorobenzyl chloride in 30 ml. of dimethylformamide was added dropwise. The reaction mixture was heated 2 hours, cooled, and diluted with water. The resulting oil was washed with water and crystallized from isopropyl alcohol to give 12.7 g. of 3-benzoyloxy-9-(p-chlorobenzyl)-1,2,3,4-tetrahydrocarbazole, m.p. 150°-152°C.

reactant | 3-benzoyloxy-1,2,3,4-tetrahydrocarbazole | C(C1=CC=CC=C1)(=O)OC1CCC=2NC3=CC=CC=C3C2C1 | C19H17NO2
reactant | sodium hydride | [H-].[Na+]
reactant | p-chlorobenzyl chloride | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | 3-benzoyloxy-9-(p-chlorobenzyl)-1,2,3,4-tetrahydrocarbazole | C(C1=CC=CC=C1)(=O)OC1CCC=2N(C3=CC=CC=C3C2C1)CC1=CC=C(C=C1)Cl | C26H22ClNO2
solvent | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(p-Chlorobenzyl)-3(dimethylamino)-1,2,3,4-tetrahydrocarbazole | ClC1=CC=C(CN2C3=CC=CC=C3C=3CC(CCC23)N(C)C)C=C1 | C21H23ClN2
